US05852011
Methyl 3-methoxy-4-[N,N-bis(2-chloroethyl)amino]benzoate
Thionyl chloride (0.7 ml; 9.6 mmol) was added to a solution of 1.0 g (3.7 mmol) of methyl 3-methoxy-4-[bis(2-hydroxyethyl)amino]benzoate in 20 ml of methylene chloride, followed by stirring at room temperature for 3 hours. After the solvent was distilled out under reduced pressure, methylene chloride was added again in a small amount and was then distilled out under reduced pressure. This procedure was repeated twice. The resultant mixture was evaporated to dryness under reduced pressure, whereby 1.0 g of a brown oil was obtained (yield: 88%).

reactant | Thionyl chloride | 9.6 mmol, 0.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 3-methoxy-4-[bis(2-hydroxyethyl)amino]benzoate | 3.7 mmol, 1.0 g | COC=1C=C(C(=O)OC)C=CC1N(CCO)CCO | C13H19NO5
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-methoxy-4-[N,N-bis(2-chloroethyl)amino]benzoate | 1.0 g, yield: 88% | COC=1C=C(C(=O)OC)C=CC1N(CCCl)CCCl | C13H17Cl2NO3
